US07678929B2
16.6 g (72.1 mmol) of 7,8-difluoro-6-methoxymethoxychroman are initially introduced in 350 ml of THF, and 54.3 ml (86.5 mmol) of n-BuLi (15% soln. in hexane) are added dropwise at −78° C. When the addition is complete, the mixture is stirred at this temperature for 30 min and subsequently at 20° C. for 1 h. The solution is re-cooled to −78° C., and a solution of 22.0 g (86.5 mol) of iodine in 100 ml of THF is added dropwise. The reaction mixture is stirred at room temperature for 1.5 h and subsequently diluted with MTBE. The solution is washed with water and sat. sodium chloride soln. and dried using sodium sulfate. The crude product remaining after removal of the solvents is purified by column chromatography (SiO2, n-heptane:MTBE=2:1), giving 7,8-difluoro-5-iodo-6-methoxymethoxychroman as a brownish oil.

reactant | 7,8-difluoro-6-methoxymethoxychroman | 72.1 mmol, 16.6 g | FC1=C(C=C2CCCOC2=C1F)OCOC | C11H12F2O3
reactant | n-BuLi | 86.5 mmol, 54.3 ml | [Li]CCCC
reactant | iodine | 86.5 mol, 22.0 g | II | I2
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 7,8-difluoro-5-iodo-6-methoxymethoxychroman | FC1=C(C(=C2CCCOC2=C1F)I)OCOC | C11H11F2IO3
